US03988339
8-Chloro-7-methylisoquinoline was prepared from 2-chloro-3-methylbenzaldehyde and 2,2-dimethoxyethylamine by the procedure described in Example 1.

reactant | 2-chloro-3-methylbenzaldehyde | ClC1=C(C=O)C=CC=C1C | C8H7ClO
reactant | 2,2-dimethoxyethylamine | COC(CN)OC | C4H11NO2
product | 8-Chloro-7-methylisoquinoline | ClC=1C(=CC=C2C=CN=CC12)C | C10H8ClN
